US07737136B2
trans-N-(7-Amino-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (Structure 51 of Scheme XII)
To a solution of trans-2,2,2-trifluoro-N-[2,3,4,14b-tetrahydro-7-[(phenylmethyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl]acetamide (944 mg, 2.0 mmol) in ethanol (16 mL) were added Pd/C 10% (111 mg) and a solution of 4M HCl in dioxane (778 μl, 3.11 mmol). The resulting reaction mixture was hydrogenated at 3 bar for 6 h. The reaction mixture was quenched with sat. NaHCO3 (aq) and diluted with ethanol. After filtration through dicalite and thorough washing with ethyl acetate, the volatiles were removed in vacuo. A part of the crude product was purified with HPLC to afford the title compound (29 mg, 53%). Data (m/z)=378 (M+H)+.

reactant | trans-2,2,2-trifluoro-N-[2,3,4,14b-tetrahydro-7-[(phenylmethyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl]acetamide | 2.0 mmol, 944 mg | FC(C(=O)N[C@@H]1CCCN2C3=C(OC4=C([C@@H]21)C=CC=C4)C=CC(=C3)NCC3=CC=CC=C3)(F)F | C26H24F3N3O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 3.11 mmol, 778 μl | O1CCOCC1 | C4H8O2
solvent | ethanol | 16 mL | C(C)O | C2H6O
catalyst | Pd/C | 111 mg | [Pd] | Pd
product | trans-N-(7-Amino-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 29 mg, 53% | NC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H18F3N3O2
